US07119109B2
c) 2-[[1-Ethyl-3-(methylamino)propyl]thio]-6-methyl-3-pyridinecarbonitrile hydrochloride
1,1-Dimethylethyl [3-[(3-cyano-6-methyl-2-pyridinyl)thio]pentyl]methylcarbamate (110 mg) was dissolved in 4M HCl in dioxane (10 ml). The resulting solution was stirred at room temperature for 1 h, then the solvent was evaporated off. The residue was recrystallised from diethyl ether/ethanol to give the title compound (90 mg) as a white solid.

reactant | 1,1-Dimethylethyl [3-[(3-cyano-6-methyl-2-pyridinyl)thio]pentyl]methylcarbamate | 110 mg | C(#N)C=1C(=NC(=CC1)C)SC(CCN(C(OC(C)(C)C)=O)C)CC | C18H27N3O2S
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-[[1-Ethyl-3-(methylamino)propyl]thio]-6-methyl-3-pyridinecarbonitrile hydrochloride | 90 mg | Cl.C(C)C(CCNC)SC1=NC(=CC=C1C#N)C | InChI=1S/C13H19N3S.ClH/c1-4-12(7-8-15-3)17-13-11(9-14)6-5-10(2)16-13;/h5-6,12,15H,4,7-8H2,1-3H3;1H
